US06294558B1
2-Fluoro-4-[4-methyl-2-[4-(4-thiazolyl)phenyl]-1H-imidazol-1-yl]benzenesulfonamide. (step 4)
To a stirred solution of 2-fluoro-4-[4-methyl-2-[4-(2-trimethylsilylthiazol-4-yl)phenyl]-1H-imidazol-1-yl]benzenesulfonamide (crude, 0.634 mmol) in THF (3 mL) was added tetrabutylammonium fluoride (0.95 mL, 1.0 M solution in THF, 0.95 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 30 minutes. The reaction mixture was added water (20 mL) and extracted with ethyl acetate (20 mL×3). The organic layer was washed with water and brine. After dried over MgSO4 and concentration in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (1/3). The resulting solid was recrystallized from ethyl acetate-hexane to give the title compound (0.116 g, 44.1% yield, via 2 steps).

reactant | 2-fluoro-4-[4-methyl-2-[4-(2-trimethylsilylthiazol-4-yl)phenyl]-1H-imidazol-1-yl]benzenesulfonamide | 0.634 mmol | FC1=C(C=CC(=C1)N1C(=NC(=C1)C)C1=CC=C(C=C1)C=1N=C(SC1)[Si](C)(C)C)S(=O)(=O)N | C22H23FN4O2S2Si
reactant | tetrabutylammonium fluoride | 0.95 mmol, 1.0 M, 0.95 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 20 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-[4-methyl-2-[4-(4-thiazolyl)phenyl]-1H-imidazol-1-yl]benzenesulfonamide | 0.116 g, 44.1% yield | FC1=C(C=CC(=C1)N1C(=NC(=C1)C)C1=CC=C(C=C1)C=1N=CSC1)S(=O)(=O)N | C19H15FN4O2S2
